US04407797
A solution of 5-phenylamino-1,2-dithiol-3-thione (9 g), chloroacetic acid (4.15 g) and sodium iodide (6.6 g) in acetone (135 cc) is heated under reflux for 35 minutes. After cooling to a temperature of about 20° C., the insoluble product is filtered off and washed successively with acetone (3×15 cc), with water (3×10 cc) and then with acetone (3×10 cc). By recrystallisation of this crude product from methanol (470 cc), (3-phenylimino-1,2-dithiol-5-ylthio)-acetic acid hydroiodide (7.1 g) is obtained, melting at about 205° C. with decomposition.

reactant | 5-phenylamino-1,2-dithiol-3-thione | 9 g | C1(=CC=CC=C1)NC1=CC(SS1)=S | C9H7NS3
reactant | chloroacetic acid | 4.15 g | ClCC(=O)O | C2H3ClO2
reactant | sodium iodide | 6.6 g | [I-].[Na+]
solvent | acetone | 135 cc | CC(=O)C | C3H6O
product | (3-phenylimino-1,2-dithiol-5-ylthio)-acetic acid hydroiodide | 7.1 g | I.C1(=CC=CC=C1)N=C1SSC(=C1)SCC(=O)O | InChI=1S/C11H9NO2S3.HI/c13-10(14)7-15-11-6-9(16-17-11)12-8-4-2-1-3-5-8;/h1-6H,7H2,(H,13,14);1H
